US07994190B2
To a stirred solution of (6-chloropyridin-3-yl)(phenyl)methyl acetate (0.52 g, 2.0 mmol) and (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane (2.0 mL, 9.8 mmol) in anhydrous dichloromethane (10 mL) was added titanium tetrachloride solution (1M in toluene, 4.4 mL, 4.4 mmol) dropwise at 0° C. under argon. After stirring at 0° C. for 48 hrs (refrigerator) and room temperature for 5 hours, the mixture was poured into a saturated aqueous sodium bicarbonate solution (40 mL) maintained at 0° C. The mixture was extracted with ethyl acetate (2×40 mL). The combined organic solutions were dried (Na2SO4) and concentrated. Silica gel flash chromatography (0-100% ethyl acetate in hexanes) gave methyl 3-(6-chloropyridin-3-yl)-2,2-dimethyl-3-phenylpropanoate (0.48 g, 1.6 mmol, 80% yield) as a colorless liquid. MS found: (M+H)+=304.25.

reactant | (6-chloropyridin-3-yl)(phenyl)methyl acetate | 2.0 mmol, 0.52 g | C(C)(=O)OC(C1=CC=CC=C1)C=1C=NC(=CC1)Cl | C14H12ClNO2
reactant | (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane | 9.8 mmol, 2.0 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 4.4 mmol, 1M, 4.4 mL | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 3-(6-chloropyridin-3-yl)-2,2-dimethyl-3-phenylpropanoate | 1.6 mmol, 0.48 g, 80% yield | ClC1=CC=C(C=N1)C(C(C(=O)OC)(C)C)C1=CC=CC=C1 | C17H18ClNO2
